US07256219B2
1-[2,5-Bis(2,2,2-trifluoroethoxy)phenyl]-3-(3-methylphenyl)-2-propen-1-one
The title compound was prepared from a mixture of 2,5-bis(2,2,2-trifluoroethoxy)acetophenone (200 mg, 0.633 mmol) and m-tolualdehyde (75 ul, 0.633 mmol) similar to Example 6 and isolated as a pale yellow solid (76.2 mg, 29%). 1H NMR (CDCl3): 7.66 (d, J=15.9 Hz, 1H), 7.44 (d, J=15.6 Hz, 1H), 7.42-7.38 (m, 2H), 7.31-7.20 (m, 3H), 7.10 (dd, J=3.2, 8.9 Hz, 1H), 6.93 (d, J=9.0 Hz, 1H), 4.43-4.32 (m, 4H), 2.37 (s, 3H).

reactant | 2,5-bis(2,2,2-trifluoroethoxy)acetophenone | 0.633 mmol, 200 mg | CC(=O)C1=C(C=CC(=C1)OCC(F)(F)F)OCC(F)(F)F | C12H10F6O3
reactant | m-tolualdehyde | 0.633 mmol, 75 ul | C1(=CC(=CC=C1)C=O)C | C8H8O
product | 1-[2,5-Bis(2,2,2-trifluoroethoxy)phenyl]-3-(3-methylphenyl)-2-propen-1-one | FC(COC1=C(C=C(C=C1)OCC(F)(F)F)C(C=CC1=CC(=CC=C1)C)=O)(F)F | C20H16F6O3
